US04691027
5-Hydroxy-2-(o-hydroxyphenyl)-4,6,7-trimethyl-1,3-benzoxathiole
A mixture of 700 mg of 5-(o-acetoxybenzoyloxy)-2-(o-acetoxyphenyl)-4,6,7-trimethyl-1,3-benzoxathiole, 0.5 g of sodium hydroxide and 10 ml of methanol was heated under reflux for 1.5 hours. Subsequent treatment and purification of the reaction mixture were conducted in the same manner as in Example 52. From the fraction eluted with a 50:1 by volume mixture of benzene and ethyl acetate were obtained 260 mg of the title compound, melting at 175°-176° C.

reactant | 5-(o-acetoxybenzoyloxy)-2-(o-acetoxyphenyl)-4,6,7-trimethyl-1,3-benzoxathiole | 700 mg | C(C)(=O)OC1=C(C(=O)OC=2C(=C(C3=C(SC(O3)C3=C(C=CC=C3)OC(C)=O)C2C)C)C)C=CC=C1 | C27H24O7S
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5-Hydroxy-2-(o-hydroxyphenyl)-4,6,7-trimethyl-1,3-benzoxathiole | 260 mg | OC=1C(=C(C2=C(SC(O2)C2=C(C=CC=C2)O)C1C)C)C | C16H16O3S
